US04200632
2,500 ml of benzene was added to 1,423 g of N-(1'-hydroxy-2',2',2'-trichloroethyl)-2-hydroxy benzamide and then 833 g of thionyl chloride was added thereto and heated under reflux at 70°-80° C. for 4 hours to obtain N-(1',2',2',2'-tetrachloroethyl)-2-hydroxy benzamide (white crystal, melting point of 113°-113.5° C., Anal. Found: C,35.74; H,2.12; N,4.70 Calcd. for C9H7Cl4NO2 : C,35.68; H,2.33; N,4.62 and the resultant reaction mixture, without separation of the crystals, was cooled to below 30° C. and mixed with 1,250 g of methanol and heated under reflux for 2 hours at 55°-60° C. followed by removing the solvent and the residue was poured into water, filtered and dried to obtain 1,380 g (yield 92.4%) white crystals of N-(1'-methoxy-2',2',2'-trichloroethyl)-2-hydroxy benzamide.

reactant | N-(1'-hydroxy-2',2',2'-trichloroethyl)-2-hydroxy benzamide | 1,423 g | OC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C9H8Cl3NO3
reactant | thionyl chloride | 833 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 2,500 ml | C1=CC=CC=C1 | C6H6
product | N-(1',2',2',2'-tetrachloroethyl)-2-hydroxy benzamide | ClC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C9H7Cl4NO2
